US04668427
p-Benzyloxyphenol (50 g), ethanol (150 ml) and 50% NaOH aqueous solution (25 g) were mixed with stirring, followed by pouring in the mixture, optically active 1-methylheptyl p-toluenesulfonate derived from S-(+)-2-octanol, heating the mixture under reflux for 4 hours, distilling off most of ethanol, extracting with toluene, washing with acid, alkali and water, drying, concentrating and purifying the concentrate according to column chromatography with activated alumina (150 g) to obtain oily p-benzyloxy-(1-methylheptyloxy)benzene (68.6 g), which was then subjected to hydrogenolysis with 5% Pd-C catalyst in ethanol, followed by removing the catalyst, concentrating the solution and subjecting the concentrate to vacuum distillation to obtain oily p-(1-methylheptyloxy)phenol (IIIa-2) (30.7 g) having a b.p. of 129°-130.5° C./0.5 Torr.

reactant | p-Benzyloxyphenol | 50 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)O | C13H12O2
reactant | NaOH | 25 g | [OH-].[Na+]
reactant | 1-methylheptyl p-toluenesulfonate | C1(=CC=C(C=C1)S(=O)(=O)OC(CCCCCC)C)C | C15H24O3S
reactant | S-(+)-2-octanol | CCCCCC[C@H](C)O | C8H18O
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | p-benzyloxy-(1-methylheptyloxy)benzene | 68.6 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)OC(CCCCCC)C | C21H28O2
